US07067531B2
Sodium hydroxide (0.62 mol) was dissolved in methanol (100 mol) and the mixture was cooled till room temperature. 1-bromo-4-nitro-benzene (0.124 mol), followed by 3-chloro-benzeneacetonitrile (0.223 mol) were added dropwise, the temperature raised till 50° C. and the mixture was stirred at room temperature for one night. The mixture was poured into water and ice, the precipitate was filtered off, washed with water and extracted with DME and methanol. The organic layer was dried (MgSO4), filtered off and evaporated till dryness. The residue was taken up in diethylether, filtered off and dried, yielding 13.2 g (34.8%) of 5-bromo-3-(3-chlorophenyl)-2,1-benzisoxazole, mp. 163° C. (intermediate 1).

reactant | Sodium hydroxide | 0.62 mol | [OH-].[Na+]
reactant | methanol | 100 mol | CO | CH4O
reactant | 1-bromo-4-nitro-benzene | 0.124 mol | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 3-chloro-benzeneacetonitrile | 0.223 mol | ClC=1C=C(C=CC1)CC#N | C8H6ClN
solvent | water | O | H2O
product | 5-bromo-3-(3-chlorophenyl)-2,1-benzisoxazole | 13.2 g, 34.8% | BrC=1C=CC=2C(=C(ON2)C2=CC(=CC=C2)Cl)C1 | C13H7BrClNO
